US09428500B2
(2-hydroxy-5-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)(phenyl)methanone
In a Schlenk tube with a stirring bar, (4-bromo-2-hydroxy-5-methoxyphenyl)-(phenyl)methanone (200 mg, 0.651 mmol), potassium acetate AcOK (192 mg, 3 eq), bis(pinacolato)diboron (215 mg, 1.3 eq), and PdCl2(dppf) (47 mg, 0.1 eq) were placed. The tube was evacuated and back-filled with nitrogen (this was repeated three additional times). Then, 9.3 mL of degassed 1,4-dioxane (C=0.07M) was introduced. The reaction mixture was allowed to stir at 100° C. for 15 h. After cooling to r.t. and diluting with AcOEt, the mixture was filtered through a Celite® pad. The solvents were removed in vacuo. The crude product was purified by silica gel flash chromatography (DCM/MeOH 100:0 to 98.5:1.5) to afford the desired compound in quantitative yield (267 mg, mainly contaminated with bis(pinacolato)diboron) as a red oil. 1H NMR (300 MHz, CDCl3) δ 11.35 (s, 1H), 7.70 (dd, J=8.3, 1.4 Hz, 2H), 7.66-7.53 (m, 1H), 7.50 (t, J=7.3 Hz, 2H), 7.36 (s, 1H), 6.97 (s, 1H), 3.67 (s, 3H), 1.36 (s, 12H); 13C NMR (75 MHz, CDCl3) δ 201.1 (C═O), 156.8 (C), 155.5 (C), 138.1 (C), 132.2 (CH), 129.3 (CH), 128.5 (CH), 126.1 (CH), 120.2 (C), 113.8 (CH), 84.3 (C), 56.8 (OCH3), 24.9 (4CH3); MS (ESI) m/z: 355.1 [M+H]+; 709.3 [2M+H]+.

reactant | (4-bromo-2-hydroxy-5-methoxyphenyl)-(phenyl)methanone | 0.651 mmol, 200 mg | BrC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)O | C14H11BrO3
reactant | bis(pinacolato)diboron | 215 mg, 1.3 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | PdCl2(dppf) | 47 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-hydroxy-5-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)(phenyl)methanone | quantitative yield | OC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)OC)C(=O)C1=CC=CC=C1 | C20H23BO5
